US07932271B2
5-[(3-Chloropyridin-4-yl)(2,5-difluorophenyl)methylsulfonyl]-2-fluoropyridine
To an acetonitrile (2 ml) solution of 2-chloro-5-[(3-chloropyridin-4-yl)(2,5-difluorophenyl)methylsulfonyl]pyridine (66 mg, 0.16 mmol) were added potassium fluoride (94 mg, 1.60 mmol) and tetraphenylphosphonium bromide (134 mg, 0.32 mmol). The resulting mixture was heated under reflux for 16 hours. After the reaction mixture was cooled to room temperature, dichloromethane was added thereto. The resulting mixture was washed with water. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=17:3 eluate is concentrated under reduced pressure to give the title compound (4.5 mg, 0.011 mmol, 7%) as a white solid.

reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
reactant | 2-chloro-5-[(3-chloropyridin-4-yl)(2,5-difluorophenyl)methylsulfonyl]pyridine | 0.16 mmol, 66 mg | ClC1=NC=C(C=C1)S(=O)(=O)C(C1=C(C=CC(=C1)F)F)C1=C(C=NC=C1)Cl | C17H10Cl2F2N2O2S
reactant | potassium fluoride | 1.60 mmol, 94 mg | [F-].[K+]
catalyst | tetraphenylphosphonium bromide | 0.32 mmol, 134 mg | [Br-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-[(3-Chloropyridin-4-yl)(2,5-difluorophenyl)methylsulfonyl]-2-fluoropyridine | 0.011 mmol, 4.5 mg, 7% | ClC=1C=NC=CC1C(S(=O)(=O)C=1C=CC(=NC1)F)C1=C(C=CC(=C1)F)F | C17H10ClF3N2O2S
